US05929117
A. 4-(3,4-Dimethoxybenzoyl)pyridine
A hexane solution of butyl lithium (9 mL, 22 mmol, 2.5M) was slowly added to a stirring solution of 4-bromoveratrole (2.9 mL, 20 mmol) in 40 mL of tetrahydrofuran under nitrogen at -70° C. After 15 minutes a solution of 4-cyanopyridine in 12 mL of tetrahydrofuran was added to the reaction mixture and stirring was continued for 45 minutes. The reaction was then allowed to warm to -10° C. and the reaction was carefully quenched with hydrochloric acid (45 mL, 1N). The mixture was stirred for 30 minutes at room temperature. The pH was then adjusted to 12 with 50 mL of a 10% aqueous solution of sodium hydroxide. The mixture was extracted with ether (3×50 mL). The combined ethereal extracts were washed with brine (100 mL) then dried over magnesium sulfate and concentrated in vacuo to a brown solid. The crude product was purified by flash column chromatography (silica gel, 3% methanol/methylene chloride) to afford after vacuum drying (60° C., 1 mm) 1.9 g (39%) of the product: mp 117-118° C.; 1H NMR (CDCl3) δ 8.85-8.76 (m, 2H), 7.60-7.50 (m, 3H), 7.40-7.30 (m, 1H), 6.97-6.88 (m, 1H), 3.98 (s, 3H), 3.96 (s, 3H); 13C NMR (CDCl3) δ 193.7, 153.9, 150.1, 149.3, 145.2, 128.7, 125.9, 122.6, 111.5, 109.9, 56.1, 56.0; Anal. Calcd for C14H13NO3. Theoretical: C, 69.12; H, 5.39; N, 5.76. Found: C, 69.05; H, 5.39; N, 5.85.

reactant | hexane | CCCCCC | C6H14
reactant | butyl lithium | 22 mmol, 2.5M, 9 mL | C(CCC)[Li]
reactant | 4-bromoveratrole | 20 mmol, 2.9 mL | BrC=1C=C(C(=CC1)OC)OC | C8H9BrO2
reactant | 4-cyanopyridine | C(#N)C1=CC=NC=C1 | C6H4N2
reactant | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 12 mL | O1CCCC1 | C4H8O
product | 4-(3,4-Dimethoxybenzoyl)pyridine | COC=1C=C(C(=O)C2=CC=NC=C2)C=CC1OC | C14H13NO3
